US05686455
(d) N,N-Dimethyl-4-[4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]-benzoyl-oxyacetamide
To a solution of 4-[4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]benzoic acid (0.15 g, 0.42 mmol) [See Ex. 9 above] in DMF(10 ml) was added carbonyldiimidazole (0.34 g, 2.1 mmol). After stirring for 18 h at rt, N,N-dimethylglycolamide (0.43 g, 4.2 mmol) was added and stirring was continued for an additional 3h at rt. The reaction mixture was poured into H2O, extracted with EtOAc and evaporated. The residue was purified by flash chromatography eluting with a solvent gradient of 2% MeOH/CHCl3 to afford the title compound: CIMS (NH3,m/z): 445 (M+ +H).

reactant | 4-[4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]benzoic acid | 0.42 mmol, 0.15 g | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)C1=CC=C(C(=O)O)C=C1 | C21H14FN3O2
reactant | carbonyldiimidazole | 2.1 mmol, 0.34 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylglycolamide | 4.2 mmol, 0.43 g | CN(C(CO)=O)C | C4H9NO2
reactant | H2O | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-4-[4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]-benzoyl-oxyacetamide | CN(C(COC(C1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1)=O)=O)C | C25H21FN4O3
